US08492582B2
Sodium azide (0.065 g) and ammonium chloride (0.053 g) were added to an N,N-dimethylformamide (2.5 mL) suspension of 2-(benzyloxy)-N-(4-cyanobiphenyl-3-yl)-5-(piperidin-1-yl)benzamide (0.25 g), followed by stirring at 110° C. for 2 hours. The reaction mixture was cooled to room temperature, and then sodium azide (0.065 g) and ammonium chloride (0.053 g) were added thereto, followed by stirring at 110° C. for 1 hour and 30 minutes. The reaction mixture was cooled to room temperature, and then sodium azide (0.032 g) and ammonium chloride (0.026 g) were added thereto, followed by stirring at 110° C. for 1 hour and 30 minutes. The reaction mixture was cooled to room temperature, and then sodium azide (0.032 g) and ammonium chloride (0.026 g) were added thereto, followed by stirring at 110° C. for 1 hour. The reaction mixture was cooled to room temperature, and then chloroform and water were added thereto. The organic layer was separated and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [eluent: 100-90% chloroform/methanol] and then purified by silica gel column chromatography [Kanto Chemical Co., Inc., silica gel 60 (spherical), eluent: 100-93% chloroform/methanol] to obtain 0.18 g of 2-(benzyloxy)-N-(5-phenyl-2-(1H-tetrazol-5-yl)phenyl)-5-(piperidin-1-yl)benzamide as a brown solid.

reactant | Sodium azide | 0.065 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 0.053 g | [Cl-].[NH4+]
reactant | N,N-dimethylformamide | 2.5 mL | CN(C=O)C | C3H7NO
reactant | 2-(benzyloxy)-N-(4-cyanobiphenyl-3-yl)-5-(piperidin-1-yl)benzamide | 0.25 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC=2C=C(C=CC2C#N)C2=CC=CC=C2)C=C(C=C1)N1CCCCC1 | C32H29N3O2
reactant | sodium azide | 0.065 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 0.053 g | [Cl-].[NH4+]
reactant | sodium azide | 0.032 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 0.026 g | [Cl-].[NH4+]
reactant | sodium azide | 0.032 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 0.026 g | [Cl-].[NH4+]
solvent | water | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-(benzyloxy)-N-(5-phenyl-2-(1H-tetrazol-5-yl)phenyl)-5-(piperidin-1-yl)benzamide | 0.18 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C=CC(=C2)C2=CC=CC=C2)C2=NN=NN2)C=C(C=C1)N1CCCCC1 | C32H30N6O2
